US09034861B2
To a solution of 2-fluoro-4-iodo-phenylamine (1.1 g, 4.6 mmol) in THF (50 mL) was dropwise added LHMDS solution (6.0 mL, 6.0 mmol, 1 M in THF) at −78° C. After stirring for 1 h at −78° C., a solution of 1-allyloxy-3,4,5-trifluoro-2-nitrobenzene (1.2 g, 5.1 mmol) in THF (10 mL) was dropwise added into the reaction mixture. The reaction mixture was stirred at −78° C. for additional 1 h and brought to room temperature and stirred for 16 h. The progress of reaction was monitored by 1H NMR. After completion, the solvent was removed under reduced pressure. The residue obtained was dissolved in ethyl acetate, washed with water, dried over anhydrous Na2SO4 and concentrated. The residue was triturated with hexane to yield (3-allyloxy-5,6-difluoro-2-nitro-phenyl)-(2-fluoro-4-iodo-phenyl)-amine as a yellow solid (900 mg). 1H-NMR (400 MHz, CDCl3): δ 4.62 (2H, d, J=4.8), 5.33-5.36 (1H, d, J=10), 5.48 (1H, d, J=17.2), 5.98-6.02 (1H, m), 6.22 (1H, dd, J=2.4, 9.6), 6.36 (1H, dd, J=2, 10.4), 7.04-7.08 (1H, m), 7.45-7.52 (2H, m), 7.79 (1H, s).

reactant | 2-fluoro-4-iodo-phenylamine | 4.6 mmol, 1.1 g | FC1=C(C=CC(=C1)I)N | C6H5FIN
reactant | LHMDS | 6.0 mmol, 1 M, 6.0 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-allyloxy-3,4,5-trifluoro-2-nitrobenzene | 5.1 mmol, 1.2 g | C(C=C)OC1=C(C(=C(C(=C1)F)F)F)[N+](=O)[O-] | C9H6F3NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-allyloxy-5,6-difluoro-2-nitro-phenyl)-(2-fluoro-4-iodo-phenyl)-amine | 900 mg | C(C=C)OC=1C(=C(C(=C(C1)F)F)NC1=C(C=C(C=C1)I)F)[N+](=O)[O-] | C15H10F3IN2O3
